US05714491
3-[4-Phenoxybutanoyl]-4(S)-benzyl-2-oxazolidinone
4-Phenoxybutyric acid (1.22 g, 6.8 mmol, 1.2 equiv) was heated to reflux with thionyl chloride (0.66 ml, 1.07 g, 9.0 mmol, 1.6 equiv) for 30 min. The excess thionyl chloride was then removed under vacuum, the residue dissolved in THF (10 ml), and added to a cold (-78° C.) solution of lithiated (S)-4-benzyl-2-oxazolidinone [prepared from the oxazolodinone (1 g, 5.6 mmol) and n-butyllithium (1.6M solution, 4.23 ml, 6.8 mmol, 1.2 equiv) in THF (25 ml)]. The reaction mixture was stored for 2 hr at -78° C., then quenched with a 1:1 mixture of saturated brine and 10% HCI acid (20 ml). The mixture was allowed to warm to RT and partitioned between ethyl acetate and water. The layers were separated and the aqueous layer washed twice with ethyl acetate. The combined organic layers were washed once with brine, once with sodium bicarbonate solution, dried (MgSO4) and the solvent removed under vacuum to give a brown oil which was recrystallised (ethyl acetate) to give the title compound (0.897 g) as a white solid. δH (CDCl3) 7.35-7.17 (m, 7H), 6.94-6.86 (m, 3H), 4.66 (m, 1H), 4.18 (m, 2H), 4.06 (t, 2H), 3.30 (dd, 1H), 3.16 (t, 2H 2.25 (dd, 1H), and 2.18 (m, 2H).

reactant | 4-Phenoxybutyric acid | 6.8 mmol, 1.22 g, 1.2 equiv | O(C1=CC=CC=C1)CCCC(=O)O | C10H12O3
reactant | thionyl chloride | 9.0 mmol, 0.66 ml, 1.07 g, 1.6 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | oxazolodinone | 5.6 mmol, 1 g | O1C(NCC1)=O | C3H5NO2
reactant | n-butyllithium | 6.8 mmol, 1.6M, 4.23 ml, 1.2 equiv | C(CCC)[Li]
reactant | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-[4-Phenoxybutanoyl]-4(S)-benzyl-2-oxazolidinone | 0.897 g | O(C1=CC=CC=C1)CCCC(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C20H21NO4
